US05489614
3-(3,4-Dihydroxy-5-nitrobenzyl)-2,4-pentanedione
A mixture containing 6.0 g of 3,4-dihydroxy-5-nitrobenzyl-alcohol and 1.0 ml of trifluoroacetic acid in 70 ml of 2,4-pentanedione was heated for 20 h at 100° C. The solvents were evaporated in vacuo and the residue was crystallized from 2-propanol. Yield 3.0 g, mp 118°-128° C.

reactant | 3,4-dihydroxy-5-nitrobenzyl-alcohol | 6.0 g | OC=1C=C(CO)C=C(C1O)[N+](=O)[O-] | C7H7NO5
reactant | trifluoroacetic acid | 1.0 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2,4-pentanedione | 70 ml | CC(CC(C)=O)=O | C5H8O2
product | 3-(3,4-Dihydroxy-5-nitrobenzyl)-2,4-pentanedione | OC=1C=C(CC(C(C)=O)C(C)=O)C=C(C1O)[N+](=O)[O-] | C12H13NO6
